US09371320B2
D) 4-(4-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide
To a solution of 4-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate (100 mg) in DMF (4 mL)/water (0.30 mL) were added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (102 mg), tetrakis(triphenylphosphine)palladium(0) (27.7 mg) and potassium carbonate (66.2 mg). The reaction mixture was stirred under microwave irradiation at 130° C. for 30 min. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (45.0 mg).

reactant | 4-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 100 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)CC2=CC=C(C=C2)OC)(F)F | C16H14F3N3O5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 102 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)N)C | C12H18BNO4S
reactant | potassium carbonate | 66.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 27.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.30 mL | O | H2O
product | 4-(4-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 45.0 mg | COC1=NC=CC2=C1C(=NN2CC2=CC=C(C=C2)OC)C2=CC=C(C=C2)S(=O)(=O)N | C21H20N4O4S
